Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Left foot pain
 
Major Surgical or Invasive Procedure:
OPERATION:
1. Ultrasound-guided puncture of the right common femoral 
artery.
2. Contralateral third-order catheterization of the left 
peroneal artery.
3. Serial arteriograms of the left lower extremity.
4. Balloon angioplasty of the left superficial femoral artery.
5. Stenting of the left superficial femoral artery.
6. Perclose closure of the right common femoral arteriotomy.

 
History of Present Illness:
This is a ___ female with
longstanding diabetes and severe peripheral arterial disease.
She had previously undergone revascularization of her right
lower extremity and presents with rest pain in her left foot.
She was consented for a left lower extremity arteriogram with
possible angioplasty and stent.
 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis, CKD, 
peripheral neuropathy  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms, 
recent MIBI ___ wnl 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
9. Autonomic Dysfunction
10.CKD II, baseline creat 1.3-1.5
11.PAD s/p recent fem-tib bypass RLE ___
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___
Father - coronary artery disease with MI in her ___, died at age 
___
 
Physical Exam:
PE:

AFVSS

NEURO:

PERRL / EOMI

MAE equally

Answers simple commands

Neg pronator drift

Sensation intact to ST

2 plus DTR

___

___:

NCAT 

Neg lesions nares, oral pharnyx, auditory

Supple / FAROM

neg lyphandopathy, supra clavicular nodes

LUNGS: CTA b/l

CARDIAC: RRR without murmers

ABDOMEN: Soft, NTTP, ND, pos BS, neg CVA tenderness

EXT:

rle - palp fem, pop, dop pt, dop dp

lle - palp fem, pop, dop pt, dop dp

 
Pertinent Results:
___ 04:15AM BLOOD UreaN-21* Creat-1.0 K-4.___ was admitted on ___ with L lower extremity  
claudication. She agreed to have an elective surgery. 
Pre-operatively, she was consented. A CXR, EKG, UA, CBC,  
Electrolytes, T/S - were obtained,  all other preparations were  
made.

It was decided that he would undergo:

OPERATION:
1. Ultrasound-guided puncture of the right common femoral
    artery.
2. Contralateral third-order catheterization of the left
    peroneal artery.
3. Serial arteriograms of the left lower extremity.
4. Balloon angioplasty of the left superficial femoral
    artery.
5. Stenting of the left superficial femoral artery.
6. Perclose closure of the right common femoral
    arteriotomy.

Was prepped, and brought down to the endo suite room for 
surgery. Intra-operatively, she was closely monitored and 
remained hemodynamically stable. Tolerated the procedure well 
without any difficulty or complication.

Post-operatively, transferred to the PACU for further  
stabilization and monitoring. 

Was then transferred to the VICU for further recovery. While in 
the VICU she received monitored care. When stable she was 
delined. Her diet was advanced.  When she was stabilized from 
the acute setting of post operative care, she was transferred to 
floor status 

On the floor, she remained hemodynamically stable with her pain 
controlled. She continues to make steady progress without any 
incidents. She was discharged home in stable condition.

She did receive preoperative hydration. On DC her creatinine is 
stable.

 
Medications on Admission:
rocaltrol .5, citalopram, plavix, restasis gtt, erythromycin, 
gabapentin 1600, insulin pump, levozyl, lorazepam, reglan, 
bactroban cream, protonix, simvastatin 40, asa 81, caltrate, vit 
b12, folic acid, mvi, lantus 15, oxycodone, oxycontin 
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
3. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
5. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for Pain: prn.
Disp:*30 Tablet(s)* Refills:*0*
7. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
9. Cyclosporine 0.05 % Dropperette Sig: One (1) Dropperette 
Ophthalmic BID (2 times a day).  
10. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
11. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): please take instead of protonix for 30 days while on 
plavix, then restart.
Disp:*30 Tablet(s)* Refills:*0*
12. Lantus 100 unit/mL Cartridge Sig: One (1)  Subcutaneous once 
a day: as directed from PCP.  
13. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left lower extremity ischemia with rest pain.

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery

Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•If instructed, take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___